Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Doxycycline / Bactrim DS
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH COPD (emphysema, chron bronchitis), asthma, CKD, 
hypertension, and pruritic xerosis, recently admitted to ___ 
for COPD exacerbation vs PNA (dc'd ___ to ___ with 
cefpodoxime ending ___. Was feeling moderately well at ___ 
___ for first couple of nights and then started feeling 
increasingly dyspneic with walking there. Noted some pedal 
edema, not typical for her. Also described needing to sleep 
upright (normal 1 pillow) with feeling of inability to catch 
breath lying flat -- i.e. orthopnea. Denies CP, past dx of CHF 
or MI. No n/s, fevers, chills, n/v. Dry cough. Has ___ soft 
stools daily, but not watery. No BRBPR, no melena. Denies 
dysuria, abdominal pain, oliguria.

During her recent admission she was seen by neprhology for ___ AG acidosis and hyperkalemia. Anti-Ro/La were 
negative, 
making Sjogren's less likely. ___ and anti-dsDNA were 
negative. Serum plasma renin normal and aldosterone pending.

 
Past Medical History:
COPD - spirometry in ___: FVC 1.63L (68%), FEV1 1.07L (62%), 
FEV1/FVC 66 (91%)  
asthma - peak flows 340 at best  
hypertension  
h/o hyponatremia  
vitamin b12 defic  
gastritis  
h/o abnormal lfts  
chronic abdominal pain  
alcohol use  
ischemic colitis  
colon polyps  
low back pain  
agoraphobia  
.  

 
Social History:
___
Family History:
Mother with congenital heart disease, HTN, deceased age ___. 
Sister with ovarian ca. 
 
Physical Exam:
Admission Exam:
Vitals:  97.6 152/52  91  20  94% 3L
General: Alert, oriented, mildly tachypneic  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: JVP not elevated
Lungs: Not speaking full sentences, scattered wheezes, focal 
rales at L apex anteriorly, scattered rhonchi, tubular BS 
variably 
CV: RRR, no m/r/g
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, 2+ pulses, xerotic changes, trace edema, no clubbing
Neuro: CNs2-12 intact, no pronator drift, ___ strength with ___ 
in hip flexion limited by pain  

Discharge Exam:
Physical Exam:  
Vitals: 98.4 100-120/40-50 70-80s 18 93% RA
Initial weight: 60.2 kg. 57.7-->56.2 kg  kg I/O: ___ 
General: Alert, oriented, speaking full sentences  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: JVD
Lungs: CTAB, scattered expiratory wheezes throughout. Crackles 
midlung fields down
CV: RRR, no m/r/g. trace lower extremity edema L>R
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: Blood tinged foley
Ext: Warm, 2+ pulses, xerotic changes, no edema, no clubbing
Neuro: CNs2-12 intact, no pronator drift, ___ strength with ___ 
in hip flexion limited by pain  
 
Pertinent Results:
Admission Labs:

___ 02:50PM BLOOD WBC-11.9*# RBC-3.03* Hgb-9.6* Hct-32.2* 
MCV-107* MCH-31.8 MCHC-29.8* RDW-13.3 Plt ___
___:50PM BLOOD Glucose-107* UreaN-41* Creat-2.2* Na-136 
K-6.6* Cl-107 HCO3-20* AnGap-16
___ 02:50PM BLOOD proBNP-4474*
___ 02:50PM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-6 cTropnT-<0.01
___ 05:50PM BLOOD CK-MB-3 cTropnT-<0.01

Discharge labs:

___ 07:05AM BLOOD WBC-10.5 RBC-2.35* Hgb-7.7* Hct-23.6* 
MCV-100* MCH-32.8* MCHC-32.7 RDW-12.9 Plt ___
___ 07:05AM BLOOD Plt ___
___ 12:40PM BLOOD Glucose-120* UreaN-94* Creat-3.2* Na-130* 
K-4.9 Cl-94* HCO3-26 AnGap-15
___ 07:05AM BLOOD ALT-14 AST-11 LD(LDH)-193 AlkPhos-42 
TotBili-0.2
___ 09:15PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 06:50AM BLOOD ANCA-NEGATIVE B
___ 06:50AM BLOOD PEP-NO SPECIFI
___ 09:15PM BLOOD HIV Ab-NEGATIVE
___ 07:05AM BLOOD TSH-3.4
___ 07:05AM BLOOD Cortsol-15.3

CXR ___

FINDINGS: Frontal and lateral radiographs of the chest 
demonstrate top normal 
heart size.  The cardiomediastinal silhouette and hilar contours 
are normal.  
Calcification of the aortic knob is unchanged.  There is 
persistent patchy 
opacities in the right lower lobe and periphery of the left 
lung.  There is 
new prominence of the interstitial markings consistent with mild 
pulmonary 
edema.  There are new small bilateral pleural effusions greater 
on the right 
than the left.  No pneumothorax.  No displaced rib fracture 
identified. 
  
IMPRESSION: Persistent opacities in the right lower lobe and 
left upper lobe 
with mild pulmonary edema and new bilateral small pleural 
effusions.   

___ ___

IMPRESSION: 
  
No evidence of deep vein thrombosis in the left leg.  
Superficial edema is noted in the left calf. 

Renal U/S ___

FINDINGS: 
  
The right kidney measures 11.1 cm and the left kidney measures 
10.8 cm.  There 
is a 8 mm simple cyst in the upper pole of the right kidney.  
There is no 
hydronephrosis, stones or masses.  Renal echogenicity and 
corticomedullary 
architecture are within normal limits.  The bladder is only 
minimally 
distended and cannot be assessed.   
  
IMPRESSION: 
  
Unremarkable renal ultrasound. 

___ CXR

FINDINGS:  In comparison with the study of ___, there has been 
substantial 
decrease in the pulmonary vascular congestion with the cardiac 
size remaining 
at the upper limits of normal or mildly enlarged.  Small 
bilateral pleural 
effusions are seen with compressive atelectasis at the bases.  
Discrete areas 
of consolidation are not definitely appreciated on this study. 
  
Hyperexpansion of the lungs with flattening of the 
hemidiaphragms is 
consistent with chronic pulmonary disease.  There is extensive 
calcification 
in the aortic arch and descending portion. 

___ CXR

FINDINGS: 
  
As compared to the prior examination, there has been mild 
worsening of the 
patient's moderate to severe interstitial pulmonary edema.  
Small bilateral 
pleural effusions are stable.  There is no focal consolidation 
or 
pneumothorax.  Stable, mild cardiomegaly is noted.  Aortic 
calcifications are 
seen.  The mediastinal and hilar contours are grossly normal. 
  
IMPRESSION: 
  
Interval worsening of moderate to severe interstitial pulmonary 
edema, with 
associated small, bilateral pleural effusions.   

___ CT Chest non-contrast

IMPRESSION: 
1.  Multifocal pneumonia, suggesting aspiration. with increased 
right pleural 
effusion, now moderate and new small left pleural effusion. 
2.  Moderate pulmonary edema has minimally improved since 
___, but 
moderate right pleural effusion is larger and small left 
effusion is new, 
pointing to heart failure. 
3.  Mediastinal nodes borderline enlarged, the largest in the 
subcarinal 
station and might be reactive. 
4.  Moderate-to-severe coronary calcification, and calcification 
of the aortic 
annulus, aortic valve and mitral annulus, all unchanged since 
___ 

___ CXR

FINDINGS:  In comparison with the study of ___, the degree of 
pulmonary 
vascular congestion has substantially improved, though there is 
still evidence 
of elevated pulmonary venous pressure.  Atelectatic changes are 
seen at the 
bases, especially on the left.  An area of apparent scarring is 
again seen in 
the left mid zone laterally, is essentially unchanged from the 
CT scan of 
___. 

 
Brief Hospital Course:
___ h/o COPD, asthma, hypertension, and few months worsening 
pruritic xerosis presenting with dyspnea found to have volume 
overload, hyperkalemia and renal failure

# Acute on chronic renal failure: Patient presented with acute 
renal failure with creatinine of 2.2 (baseline ~1.0), likely 
contrast induced from a CT PE on the previous hospital 
admission. Her renal failure manifested with hyperkalemia, 
volume overload and subsequent respiratory distress. Due to 
volume overload, she was diuresed with IV medicines requiring 
metolazone as well as high dose IV furosemide. In the setting of 
diuresis, her creatinine uptrended due to pre-renal 
hypoperfusion up to 3.5. As such, diuresis was discontinued. The 
patient continued to make good urine on her own and maintain a 
constant weight. Upon discharge, her creatinine was downtrending 
and did not require medications for volume overload. Moving 
forward, she will likely require initiation of oral diuretics 
for what will likely become chronic renal failure. Furthermore, 
she will be followed by Nephrology with the possibility for 
dialysis planning as she required such high doses of IV diuresis 
in ___ to off load volume and potassium due to kidney 
dysfunction.

# Acute diastolic CHF: Patient presented with pulmonary edema 
requiring 3L of oxygen due to kidney failure as discussed above. 
An echo showed a preserved ejection fraction. She was diuresed 
with improvement of her dyspnea. Her discharge weight is 56 kg - 
there is no known dry weight for her. With this weight, she was 
able to maintain a saturation of 93% on room air. Diuresis was 
limited due to kidney injury. 

# COPD exacerbation: Patient presented with a clinical exam 
concerning for acute bronchoconstriction and hypoxemia. 
Pulmonary edema contributed to this picture. She completed a 
course of antibiotics as well as two prednisone bursts (5 days 
each) as her pulmonary exam remained poor throughout admission. 
She was treated with duel nebs and maintained on her home COPD 
medications. Pulmonary was consulted in ___ and recommended 
repeat CT scan and pulmonology follow up for both COPD and 
incidental findings on CT of unclear etiology and significance. 

# Multi-focal Bacterial pneumonia on CT: Patient clinically did 
not have signs of pneumonia but radiographic examination 
revealed multiple areas of consolidation. In discussion she with 
pulmonology she was treated with levofloxacin. However her 
course was cut short because of worsening kidney function in the 
setting of diuresis. The CT scan also suggested the possibility 
of Mycobacterium avium-intracellulare infection. Induced sputums 
could not be obtained in ___ due to logistical challenges. She 
will follow up with pulmonology for further workup. 

# Hyponatremia: Observed in the setting of diuresis so likely 
due to hypovolemia. If she continues to become hyponatremic can 
consider tightening her free water intake - 1500 cc from ___ cc 
in ___. Opted to not be aggressive in giving fluid in the 
setting of dCHF. 

# Presyncope: Patient felt light headed with blurry vision most 
likely related to over diuresis and uremic toxins. Her blood 
pressure was stable. No concern for seizure, new infection, 
neurological event, or arrhythmia. Her symptoms resolved with 
the cessation of diuresis. 

# Pleural effusion: Likely related to ___. Her history of 
weight loss and smoking history is concerning for malignancy, 
but there were no findings in the lung based upon CT. She will 
be followed by pulmonology and repeat CT scan for evaluation. 
Based upon CXR, these pleural effusion improved with diuresis.

# Hypertension: Blood pressure was high in ___. Her amlodipine 
was discontinued due to lower extremity swelling that confounded 
her clinical evaluation of volume status. Labetalol was 
initiated and uptitrated until appropriate blood pressure 
control.

# Hematuria: Traumatic Foley with aspirin and heparin 
prophylaxis. Spontaneously resolved.

# Hyperkalemia: patient presented with potassium observed in 
___ as high as 6.9. No ECG changes were observed. She was 
supported with calcium gluconate, insulin, Kayexalate and 
diuretics while her kidneys recovered. Prior to discharge, her 
potassium was normal. However in the setting of kidney disease 
and unclear prognosis, she will need lab checks for potassium 
and close follow up with nephrology.

# Chest pain: Likely related to anxiety and dyspnea. She was 
ruled out for ACS. 

# Leukocytosis: No localizing source of infection found in ___ 
and was likely related to steroid.

# Pruritis: Patient had several months of a pruritic xerotic 
rash on admission of unclear etiology. PET CT scan negative 
___ so likely no paraneoplastic cause. Rheumatology workup 
was negative; ___, anti-dsDNA, anti-Ro, and anti-La are 
negative. She was given hydroxyzine PRN with good effect.  

# Anemia: There was no evidence of active bleeding. MCV 108, 
suggestive of B12, folate deficiency vs marrow. Will defer 
workup to outpatient. 

TRANSITIONAL ISSUES
========================
- Patient will need daily cardiopulmonary examination, 
measurement of input and output, weights, in order to monitor 
for volume overload due to CHF and kidney failure for the 
possibility of initiation diuretic therapy 
- Patient will also need chem 10 every 3 days to evaluate for 
electrolyte abnormalities in the setting of kidney failure until 
stable
- Full code
 
Medications on Admission:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze/SOB 
2. Acetaminophen 500 mg PO BID 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Gabapentin 100 mg PO HS:PRN itch 
6. HydrOXYzine 25 mg PO HS:PRN itch 
7. Ipratropium Bromide MDI 2 PUFF IH QID 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Montelukast Sodium 10 mg PO DAILY 
10. Theophylline ER 400 mg PO DAILY 
11. Hydrocerin 1 Appl TP QID:PRN itch 
12. Sarna Lotion 1 Appl TP QID:PRN itch 
13. Calcium Carbonate 500 mg PO QID:PRN GERD 
14. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
15. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN shortness of breath 

16. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN chest 
discomfort 
17. Omeprazole 40 mg PO DAILY 
18. Ranitidine 150 mg PO HS 
19. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN itch 

20. Amlodipine 10 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 500 mg PO BID 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN shortness of 
breath 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Gabapentin 100 mg PO HS:PRN itch 
6. Hydrocerin 1 Appl TP QID:PRN itch 
7. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN shortness of breath 
8. Montelukast Sodium 10 mg PO DAILY 
9. Ranitidine 150 mg PO HS 
10. Sarna Lotion 1 Appl TP QID:PRN itch 
11. Omeprazole 40 mg PO DAILY 
12. Theophylline ER 400 mg PO DAILY 
13. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN itch 

14. Aspirin 81 mg PO DAILY 
15. Guaifenesin ___ mL PO Q6H:PRN cough 
16. Labetalol 500 mg PO BID 
17. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze/SOB 
18. HydrOXYzine 25 mg PO HS:PRN itch 
19. Ipratropium Bromide MDI 2 PUFF IH QID 
20. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN chest 
discomfort 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute of chronic kidney failure
Diastolic Heart failure
COPD exacerbation
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You came because of shortness of 
breath. We found that you had built up fluid in your lungs 
because your kidneys were not working normally. Due to the 
kidney disease, your potassium was also high. We used medicines 
to remove the fluid and potassium from your body. We also used 
medicines to treat COPD and pneumonia. Your breathing is better 
and now ready to go to rehabilitation to work on your strength. 
Please continue to take the rest of your medications and follow 
up with your doctors. 
 
Followup Instructions:
___